US04657898
Thionyl chloride (8.9 ml) is added slowly to cyclopropyldiphenylcarbinol (25 g) and the mixture is stirred until gas evolution ceases. Vacuum distillation affords 4-chloro-1,1-diphenylbutene. Conversion of the chloride to the cyanide is accomplished using the method of R. A. Smiley and C. Arnold, J. Org. Chem. 1960, 25, 257. The resulting nitrile (14.72 g) is reduced with Raney-Cobalt (4 g) in tetrahydrofuran (150 ml) and triethylamine (4 ml) at 15°-130° C. and 1450°-2100 PSIG. The olefinic moiety is then reduced at room temperature in methanel (150 ml) with concentrated sulfuric acid (3.5 ml) and 20% Pd-C (5 g, added portionwise during the course of the reaction) at room temperature and 50 PSIG hydrogen.

reactant | Thionyl chloride | 8.9 ml | S(=O)(Cl)Cl | Cl2OS
reactant | cyclopropyldiphenylcarbinol | 25 g | C1(CC1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H16O
product | 4-chloro-1,1-diphenylbutene | ClCCC=C(C1=CC=CC=C1)C1=CC=CC=C1 | C16H15Cl
